US06294529B1
Step 1: 1-Bromo-2-(2-hydroxy-ethyl)naphthalene
A solution of 2-(2-hydroxy-ethyl)-naphthalene (58.5 g, 0.34 mol) in anhydrous acetonitrile (500 mL) was treated with N-bromo-succinimide (66.5 g, 0.37 mol). The resulting solution was stirred at room temperature under a nitrogen atmosphere and protected from light for 30 minutes, then heated in an oil bath at 50° C. for 2 hours. After cooling to room temperature, the reaction mixture was evaporated under vacuum to a viscous oil. The oil in diethyl ether (350 mL) was washed with water (350 mL), dilute aqueous sodium thiosulfate (300 mL), water (300 mL) and brine (200 mL), dried over magnesium sulfate, filtered, and evaporated under vacuum to an oil (89.5 g) that solidified on standing. The crude product was chromatographed on a column of EM silica gel 60, eluting with methylene chloride, to afford a yellow solid (78.2 g). Recrystallization of this material from carbon tetrachloride provided the title compound (46.5 g) as a pale yellow solid.

reactant | 2-(2-hydroxy-ethyl)-naphthalene | 0.34 mol, 58.5 g | OCCC1=CC2=CC=CC=C2C=C1 | C12H12O
reactant | N-bromo-succinimide | 0.37 mol, 66.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 1-Bromo-2-(2-hydroxy-ethyl)naphthalene | 78.2 g | BrC1=C(C=CC2=CC=CC=C12)CCO | C12H11BrO
